US04659727
A mixture of 6-aminopurine (13.5 g), triethylamine (10.1 g) and 2-ethoxy-1,1-bis(ethoxycarbonyl)ethene (21.6 g) in dimethylformamide (100 ml) was heated at reflux for 16 hours. It was then cooled and the product which separated was crystallised from dimethylformamide and washed with diethyl ether, to give 2-(purin-6-ylamino)-1,1-bis(ethoxycarbonyl)ethene (23 g), in the form of colourless, fluffy crystals, m.p. 234° C. (with decomposition).

reactant | 6-aminopurine | 13.5 g | NC1=C2NC=NC2=NC=N1 | C5H5N5
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-ethoxy-1,1-bis(ethoxycarbonyl)ethene | 21.6 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(purin-6-ylamino)-1,1-bis(ethoxycarbonyl)ethene | 23 g | N1=CN=C2N=CNC2=C1NC=C(C(=O)OCC)C(=O)OCC | C13H15N5O4
